* F:\IRKIT\DEVICE\HARDWARE\SIMULATION\irled.asc
Q1 c b 0 0 2SD1781K
R1 b in 1.8k
R2 c N002 200
V1 in 0 PULSE(0V 5V 18u 0 0 9u 27u 100) AC 2.5V
V2 out 0 5V
R3 c b 10k
D1 N001 N002 LD271
D2 out N001 LD271
R4 N002 c 200
C1 out 0 4.7u
.model D D
.lib C:\PROGRA~1\LTC\LTSPIC~1\lib\cmp\standard.dio
.model NPN NPN
.model PNP PNP
.lib C:\PROGRA~1\LTC\LTSPIC~1\lib\cmp\standard.bjt
.tran 0.1m
.backanno
.end
